US04176184
(b) 7,7-Dimethyl-2-(4-hydroxy-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione
A mixture consisting of 2.3 gm of 7,7-dimethyl-2-(4-benzyloxy-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione, 200 ml of methanol and 0.5 gm of 10% palladium-on-charcoal was hydrogenated at 50° C. at a hydrogen pressure of 5 atmospheres for 4 hours. The catalyst was then filtered off, the filtrate was evaporated to 50 ml and the precipitated crystals were suction-filtered off.

reactant | 7,7-dimethyl-2-(4-benzyloxy-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | 2.3 gm | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=C(C=C3)OCC3=CC=CC=C3)C | C25H21N3O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 0.5 gm | [Pd] | Pd
solvent | methanol | 200 ml | CO | CH4O
product | 7,7-Dimethyl-2-(4-hydroxy-phenyl)-5H,7H-imidazo[4,5-h]isoquinoline-4,6-dione | CC1(N=CC2=C3C(C(CC2C1=O)=O)=NC(=N3)C3=CC=C(C=C3)O)C | C18H15N3O3
